2148-09-26 06:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Last night- patient had low symptomatic FSBS (32). Was given 25mg of
   D50 and some [**Location (un) 184**] juice.  Repeat sugar was 188.  Patient given half
   dose (9U) of lantus in evening.  Felt much better.  Says shortness of
   breath improving also.
   Patient feels better this AM- denies any chest pain, dizziness,
   headaches.   Improved shortness of breath.
   Allergies:
   Codeine
   Nausea/Vomiting
   Amoxicillin
   Nausea/Vomiting
   Blood-Group Specific Substance
   Unknown;
   Adhesive Tape (Topical)
   "tape absorbs i
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2148-9-25**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2148-9-25**] 09:45 PM
   Dextrose 50% - [**2148-9-25**] 10:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-9-26**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.3
C (97.3
   HR: 79 (69 - 84) bpm
   BP: 123/54(70) {102/45(59) - 148/73(91)} mmHg
   RR: 15 (11 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                    895 mL
                                                                    181 mL
   PO:
                                                                    525 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    320 mL
                                                                     61 mL
   Blood products:
   Total out:
                                                                  1,505 mL
                                                                    390 mL
   Urine:
                                                                    505 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -610 mL
                                                                   -209 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///23/
   Physical Examination
   GENERAL: WDWN woman in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with no elevated JVP
   CARDIAC: Regular rate and rhythm.  [**4-5**] holosystolic murmur heard best
   at apex.  PMI located in 5th intercostal space, midclavicular line.
   Normal S1, S2. No rubs or gallops. No thrills, lifts.
   LUNGS: Occasional crackles heard at bases.  Good respiratory effort.
   No wheezes.  .
   ABDOMEN: Soft, NTND. No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits. Femoral cath sites bandaged-
   no signs of hematoma, erythema.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   454 K/uL
   9.3 g/dL
   30 mg/dL
   1.3 mg/dL
   23 mEq/L
   4.2 mEq/L
   29 mg/dL
   105 mEq/L
   137 mEq/L
   29.1 %
   6.6 K/uL
        [image002.jpg]
                             [**2148-9-25**]  09:41 PM
   WBC
   6.6
   Hct
   29.1
   Plt
   454
   Cr
   1.3
   Glucose
   30
   Other labs: Ca++:9.0 mg/dL, Mg++:1.9 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   Patient is a 45yo female with PMHx significant for CAD s/p CABG,
   diastolic HF and kidney transplant presenting from [**Hospital1 **] with shortness
   of breath.
   .
   # CORONARIES:  Known CAD s/p CABG in [**2140**].  Was cathed today which
   showed no change from previous cath in [**5-8**]- no intervention was
   performed.  Patient continues to deny chest pain.
   -tele
   -ASA 81mg daily
   -atorvastatin 40mg daily
   -plavix 75mg daily
   -Ezetimibe 10 mg daily
   -Isosorbide Mononitrate (Extended Release) 60 mg daily
   -post-cath check at 2100
   -o2- wean as tolerated
   -no enzymes ordered given lack of symptoms and cath results which
   showed no changes from previous cath
   -EKG in AM
   .
   # PUMP:  History of diastolic dysfunction now presented with CHF
   exacerbation.  ECHO today shows "the inferolateral wall systolic
   dysfunction is more evident and the severity of mitral regurgitation
   has decreased slightly."  Received 20mg IV lasix today.
   -f/u ECHO
   -lasix 20mg PO for diuresis
   -O2- wean as tolerated
   -metoprolol 50mg [**Hospital1 **]
   -nifedipine cr 60mg daily
   .
   # RHYTHM:  Patient in normal sinus rhythm.
   -increase metoprolol dose if rate elevates for a sustained period of
   time
   .
   # Immune Suppression: Patient is s/p living donor kidney
   transplant.
   -continue on sirolimus 3 mg daily and tacrolimus 2 mg twice daily.
   -contact transplant regarding any dose changes needed
   -home dose of prednisone (4mg daily) continued
   .
   # Diabetes Mellitus Type I: Last A1C on [**9-16**] was 8.7%.
   -Lantus plus sliding scale insulin.
   -monitor sugars
   .
   # Renal Disease: Patient is s/p kidney transplant. Her
   creatinine over the last year has ranged from 0.8-1.1.
   -monitor Cr given lasix administration
   .
   # Hypertension:
   -continue home doses of metoprolol and nifedipine extended release.
   .
   # Depression:
   -continue home medications of bupropion and citalopram.
   .
   # Pain: Questionable allergy to codiene- patient reports
   nausea/vomiting but has been taking oxycodone recently for ankle
   fracture.
   -continue PO oxycodone.
   .
   # Insomnia: Continue home dose of trazodone.
   .
   # Nausea: Continued reglan and zofran.
   .
   # Osteoporosis: Continued vitamin D and calcium.
   .
   FEN: replete lytes as needed.  monitor closely given patient on lasix
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with heparin SC
   -Pain management with oxycodone PRN
   -Bowel regimen with senna, colace
   .
   CODE: Presumed full
   .
   COMM:  [**Name (NI) 71**] [**Name (NI) 2253**] (mother)- [**Telephone/Fax (1) 10098**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2148-9-25**] 04:42 PM
   Cordis/Introducer - [**2148-9-25**] 04:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Nothing to add
   Physical Examination
   Nothing to add
   Medical Decision Making
   Nothing to add
   Total time spent on patient care: 70 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4646**],MD
   on:[**2148-9-26**] 09:59 ------

2148-09-27 03:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - seen by IV access, who were unable to get access, IR placed PICC
   line.
   - femoral sheath removed, site checked @ 2153 - 1-2 cm hematoma noted
   on left femoral site, with bilateral femoral bruits auscultated,
   bilateral distal pulses 2+
   - checked HCT @ 10:47, dropped from 28.8 this AM to 25.5, patient is
   not tachycardiac, maintaining BP, Asx, will recheck at 1 AM and T&S 2
   units.
   - 1 am hct 24.2, decided against transfusion because of h/o flash
   pulmonary edema and patient hemodynamically stable and asx. Will follow
   up 5 am cbc.  Returned at 27.
   - temporarily placed on NRB due to O2 sats 85%
 93% with NRB.  On
   exam, diffuse crackles
 gave 20 mg IV lasix (pt has been
   auto-diuresing well).  Put out 110 mL in 15 mins after this.
   Allergies:
   Codeine
   Nausea/Vomiting
   Amoxicillin
   Nausea/Vomiting
   Blood-Group Specific Substance
   Unknown;
   Adhesive Tape (Topical)
   "tape absorbs
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2148-9-26**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2148-9-26**] 10:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-9-27**] 03:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98.1
   HR: 82 (77 - 92) bpm
   BP: 121/69(80) {84/47(62) - 132/95(100)} mmHg
   RR: 14 (11 - 33) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55 kg (admission): 57.8 kg
   Height: 67 Inch
                  Total In:
                                                                  1,850 mL
                  PO:
                                                                  1,660 mL
                  TF:
   IVF:
                                                                    190 mL
   Blood products:
   Total out:
                                                                  1,425 mL
                                                                    490 mL
   Urine:
                                                                  1,425 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    425 mL
                                                                   -490 mL
   Respiratory support
   O2 Delivery Device: Medium conc mask
   SpO2: 94%
   ABG: ///23/
   Physical Examination
   GENERAL: WDWN woman in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with no elevated JVP
   CARDIAC: Regular rate and rhythm.  [**4-5**] holosystolic murmur heard best
   at apex.  PMI located in 5th intercostal space, midclavicular line.
   Normal S1, S2. No rubs or gallops. No thrills, lifts.
   LUNGS: Crackles heard at bases.  Good respiratory effort.   No
   wheezes.
   ABDOMEN: Soft, NTND. No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits. Femoral cath sites bandaged-
   no signs of hematoma, erythema.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   410 K/uL
   8.6 g/dL
   90
   1.4 mg/dL
   23 mEq/L
   4.7 mEq/L
   30 mg/dL
   105 mEq/L
   138 mEq/L
   27.3 %
   6.0 K/uL
        [image002.jpg]
                             [**2148-9-25**]  09:41 PM
                             [**2148-9-26**]  05:30 AM
                             [**2148-9-26**]  08:00 AM
                             [**2148-9-26**]  10:47 PM
                             [**2148-9-27**]  01:00 AM
   WBC
   6.6
   6.3
   Hct
   29.1
   28.8
   25.5
   24.2
   Plt
   454
   415
   Cr
   1.3
   1.1
   Glucose
   30
   185
   168
   Other labs: Ca++:9.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 DIABETES MELLITUS (DM), TYPE I
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   Patient is a 45 yo female with CAD s/p CABG, diastolic HF and kidney
   transplant presenting from [**Hospital1 **] with shortness of breath.
   .
   # CORONARIES:  Known CAD s/p CABG in [**2140**].  Was cathed today which
   showed no change from previous cath in [**5-8**]- no intervention was
   performed.  Patient continues to deny chest pain.
   -tele
   -ASA 81mg daily
   -atorvastatin 40mg daily
   -plavix 75mg daily
   -Ezetimibe 10 mg daily
   -Isosorbide Mononitrate (Extended Release) 60 mg daily
   -post-cath check showing small hematoma, bilateral buits
   - wean oxygen as tolerated
   -no enzymes ordered given lack of symptoms and cath results which
   showed no changes from previous cath
   .
   # PUMP:  History of diastolic dysfunction now presented with CHF
   exacerbation.  ECHO shows "the inferolateral wall systolic dysfunction
   is more evident and the severity of mitral regurgitation has decreased
   slightly."  Went into flash pulmonary edema overnight, and received
   20mg IV lasix this AM.
   -consider 20 mg IV lasix again this AM
   -O2 wean as tolerated
   -metoprolol 50mg [**Hospital1 **]
   -nifedipine cr 60mg daily
   .
   # RHYTHM:  Patient in normal sinus rhythm.
   -increase metoprolol dose if rate elevates for a sustained period of
   time
   .
   # Immune Suppression: Patient is s/p living donor kidney
   transplant.
   -continue on sirolimus 3 mg daily and tacrolimus 2 mg twice daily.
   -contact transplant regarding any dose changes needed
   -home dose of prednisone (4mg daily) continued
   .
   # Diabetes Mellitus Type I: Last A1C on [**9-16**] was 8.7%.
   -Lantus plus sliding scale insulin.
   -monitor sugars
   .
   # Renal Disease: Patient is s/p kidney transplant. Her creatinine over
   the last year has ranged from 0.8-1.1.
   -monitor Cr given lasix administration
   -currently slightly elevated, but suspect acute pulmonary edema as
   etiology, and suspect improvement with diuresis
   .
   # Hypertension:
   -continue home doses of metoprolol and nifedipine extended release.
   .
   # Depression:
   -continue home medications of bupropion and citalopram.
   .
   # Pain: Questionable allergy to codiene- patient reports
   nausea/vomiting but has been taking oxycodone recently for ankle
   fracture.
   -continue PO oxycodone.
   .
   # Insomnia: Continue home dose of trazodone.
   .
   # Nausea: Continued reglan and zofran.
   .
   # Osteoporosis: Continued vitamin D and calcium.
   .
   FEN: replete lytes as needed.  monitor closely given patient on lasix
   .
   ACCESS: PICC line
   .
   PROPHYLAXIS:
   -DVT ppx with heparin SC
   -Pain management with oxycodone PRN
   -Bowel regimen with senna, colace
   .
   CODE: Presumed full
   .
   COMM:  [**Name (NI) 71**] [**Name (NI) 2253**] (mother)- [**Telephone/Fax (1) 10098**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2148-9-26**] 05:07 PM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: possible transfer to [**Hospital Ward Name 790**] 3
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Nothing to add
   Physical Examination
   Nothing to add
   Medical Decision Making
   Nothing to add
   Total time spent on patient care: 45 minutes.

2148-09-28 04:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Given another dose of Lasix 20mg IV at 1800 and has put out
   140-200cc/hr of urine since.  Still on non-rebreather.  Myocardial
   viability study cancelled today because EF=55% so heart tissue must be
   viable.  Patient will need cath (with intervention) on Monday.  Plan is
   to increase home regimen of Lasix to 20mg PO BID once patient is
   completely diuresed and off of oxygen requirement.
   Allergies:
   Codeine
   Nausea/Vomiting
   Amoxicillin
   Nausea/Vomiting
   Blood-Group Specific Substance
   Unknown;
   Adhesive Tape (Topical)
   "tape absorbs i
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2148-9-27**] 05:50 PM
   Ranitidine (Prophylaxis) - [**2148-9-27**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2148-9-27**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-9-28**] 04:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.6
C (96
   HR: 79 (75 - 86) bpm
   BP: 143/75(87) {96/54(63) - 167/88(106)} mmHg
   RR: 12 (11 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55 kg (admission): 57.8 kg
   Height: 67 Inch
                  Total In:
                                                                    765 mL
                  PO:
                                                                    765 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,975 mL
                                                                    800 mL
   Urine:
                                                                  2,975 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,210 mL
                                                                   -800 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 95%
   ABG: ////
   Physical Examination
   GENERAL: WDWN woman in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with no elevated JVP
   CARDIAC: Regular rate and rhythm.  [**4-5**] holosystolic murmur heard best
   at apex.  PMI located in 5th intercostal space, midclavicular line.
   Normal S1, S2. No rubs or gallops. No thrills, lifts.
   LUNGS: Scattered crackles heard at bases.  Good respiratory effort.
   No wheezes.
   ABDOMEN: Soft, NTND. No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits. Cath sites- no erythema, no
   hematoma.  Healing.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   410 K/uL
   8.6 g/dL
   90 mg/dL
   1.4 mg/dL
   23 mEq/L
   4.7 mEq/L
   30 mg/dL
   105 mEq/L
   138 mEq/L
   27.3 %
   6.0 K/uL
        [image002.jpg]
                             [**2148-9-25**]  09:41 PM
                             [**2148-9-26**]  05:30 AM
                             [**2148-9-26**]  08:00 AM
                             [**2148-9-26**]  10:47 PM
                             [**2148-9-27**]  01:00 AM
                             [**2148-9-27**]  04:50 AM
   WBC
   6.6
   6.3
   6.0
   Hct
   29.1
   28.8
   25.5
   24.2
   27.3
   Plt
   454
   415
   410
   Cr
   1.3
   1.1
   1.4
   Glucose
   30
   185
   168
   90
   Other labs: Ca++:9.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   Patient is a 45 yo female with CAD s/p CABG, diastolic HF and kidney
   transplant presenting from [**Hospital1 **] with shortness of breath.
   .
   # CORONARIES:  Known CAD s/p CABG in [**2140**].  Was cathed today which
   showed no change from previous cath in [**5-8**]- no intervention was
   performed.  Patient continues to deny chest pain.
   -cath on Monday with planned intervention
   -tele
   -ASA 81mg daily
   -atorvastatin 40mg daily
   -plavix 75mg daily
   -Ezetimibe 10 mg daily
   -Isosorbide Mononitrate (Extended Release) 60 mg daily
   - wean oxygen as tolerated
   .
   # PUMP:  History of diastolic dysfunction now presented with CHF
   exacerbation.  ECHO shows "the inferolateral wall systolic dysfunction
   is more evident and the severity of mitral regurgitation has decreased
   slightly."  Went into flash pulmonary edema overnight, and received
   20mg IV lasix this AM.
   -switch to 40mg PO lasix
   -O2 wean as tolerated
   -metoprolol 50mg [**Hospital1 **]
   -nifedipine cr 60mg daily
   -consider adding ACE or [**Last Name (un) 239**] to regimen
   .
   # RHYTHM:  Patient in normal sinus rhythm.
   -increase metoprolol dose if rate elevates for a sustained period of
   time
   .
   # Immune Suppression: Patient is s/p living donor kidney
   transplant.
   -continue on sirolimus 3 mg daily and tacrolimus 2 mg twice daily.
   -contact transplant regarding any dose changes needed
   -home dose of prednisone (4mg daily) continued
   -monitor levels of sirolimus and tacrlimus
   .
   # Diabetes Mellitus Type I: Last A1C on [**9-16**] was 8.7%.
   -Lantus plus sliding scale insulin.
   -monitor sugars
   .
   # Renal Disease: Patient is s/p kidney transplant. Her creatinine over
   the last year has ranged from 0.8-1.1.
   -monitor Cr given lasix administration
   -currently slightly elevated, but suspect acute pulmonary edema as
   etiology, and suspect improvement with diuresis
   .
   # Hypertension:
   -continue home doses of metoprolol and nifedipine extended release.
   .
   # Depression:
   -continue home medications of bupropion and citalopram.
   .
   # Pain: Questionable allergy to codiene- patient reports
   nausea/vomiting but has been taking oxycodone recently for ankle
   fracture.
   -continue PO oxycodone.
   .
   # Insomnia: Continue home dose of trazodone.
   .
   # Nausea: Continued reglan and zofran.
   .
   # Osteoporosis: Continued vitamin D and calcium.
   .
   FEN: replete lytes as needed.  monitor closely given patient on lasix
   .
   ACCESS: PICC line
   .
   PROPHYLAXIS:
   -DVT ppx with heparin SC
   -Pain management with oxycodone PRN
   -Bowel regimen with senna, colace
   .
   CODE: Presumed full
   .
   COMM:  [**Name (NI) 71**] [**Name (NI) 2253**] (mother)- [**Telephone/Fax (1) 10098**]
   .
   DISPO: [**Hospital Ward Name 790**] 3 today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2148-9-26**] 05:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Agree with above, nothing to add
   Physical Examination
   Agree with above, nothing to add
   Medical Decision Making
   Agree with above, nothing to add
   Total time spent on patient care: 60 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4646**],MD
   on:[**2148-9-28**] 09:50 ------